### ISSUE TITLE
bug: `Lean.MVarId.getType'` does not always instantiate all metavariables

### ISSUE THREAD

**Issue by kmill** [leanprover/lean4#2505]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The docstring for `Lean.MVarId.getType'` suggests that it returns an expression in weak-head normal form with instantiated metavariables, however its definition instantiates metavariables and then puts the expression into weak-head normal form. This can lead to expressions with metavariables since `whnf` can unfold local definitions, whose bodies can have metavariables.

Here is a demonstration of what can go wrong. It includes a `Lean.MVarId.getType''` that applies the operations in reverse order, which is fine because `whnf` instantiates metavariables as needed.
```lean
import Lean

open Lean Elab Tactic Meta

inductive A : Nat → Prop

def Lean.MVarId.getType'' (mvarId : MVarId) : MetaM Expr := do
  instantiateMVars (← whnf (← mvarId.getType))

elab "the_target" : tactic => Tactic.withMainContext do
  dbg_trace "target : {← (← getMainGoal).getType'}"
  dbg_trace "target' : {← (← getMainGoal).getType''}"

example : True := by
  let p := A ?n
  case n => exact 1
  have : p := ?h
  case h =>
    the_target
    sorry
  sorry
/-
target : A ?_uniq.3033
target' : A (OfNat.ofNat.{0} Nat 1 (instOfNatNat 1))
-/
```

### Versions

leanprover/lean4:v4.0.0-rc4

**Comment by semorrison** [comment]
Would you be interested in adding a few tests to #2595?

**Comment by kmill** [comment]
Fixed by #2595
